US07641914B2
4) Preparation of tert-butyl[(3-bromopropyl)trifluoro-acetylamino]acetate
10 g of tert-butyl [(3-hydroxypropyl)-trifluoroacetylamino]acetate (35 mmol) were solubilized in 150 ml of tetrahydrofuran. 12.4 g of triphenylphosphine (47.3 mmol) were added and the reaction mixture was thermostated at 15-20° C. 15.1 g of carbon tetrabromide (45.6 mmol), dissolved in 60 ml of acetonitrile, were added dropwise using a dropping funnel and the whole was stirred at room temperature for 4 hours.

reactant | tert-butyl [(3-hydroxypropyl)-trifluoroacetylamino]acetate | 35 mmol, 10 g | OCCCN(C(C(F)(F)F)=O)CC(=O)OC(C)(C)C | C11H18F3NO4
reactant | triphenylphosphine | 47.3 mmol, 12.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 45.6 mmol, 15.1 g | C(Br)(Br)(Br)Br | CBr4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | tert-butyl[(3-bromopropyl)trifluoro-acetylamino]acetate | C(C)(C)(C)OC(CN(C(C(F)(F)F)=O)CCCBr)=O | C11H17BrF3NO3
